US04599334
A mixture of 2.8 g (0.01 mols) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 1.8 g (0.011 mole) of 2-phenylpiperazine and 2.2 g (0.02 mole) of 1,4-diazabicyclo[2.2.2]octane in 6 ml of dimethyl sulphoxide is heated at 140° C. for 4 hours. The solution is concentrated under high vacuum, and the residue is stirred with 20 ml of water and the pH is adjusted to 7 with 2N hydrochloric acid. The precipitate is filtered off with suction, washed with water and methanol, and boiled in 30 ml of methanol. 1.3 g (32% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-phenyl-1-piperazinyl)-3-quinolinecarboxylic acid of melting point 218°-220° (with decomposition) is obtained (recrystallized from glycol monomethyl ether).

reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.01 mols, 2.8 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
reactant | 2-phenylpiperazine | 0.011 mole, 1.8 g | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.02 mole, 2.2 g | N12CCN(CC1)CC2 | C6H12N2
solvent | dimethyl sulphoxide | 6 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(3-phenyl-1-piperazinyl)-3-quinolinecarboxylic acid | 1.3 g, 32% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1=CC=CC=C1)F)=O)C(=O)O | C23H22FN3O3
